US07417169B2
Ethyl(4′-benzyloxybiphenyl-4-yloxy)acetate
Benzyl bromide (0.23 mL) was added to a mixture of ethyl (4′-hydroxybiphenyl-4-yloxy)acetate (0.50 g) and potassium carbonate (0.38 g) in N,N-dimethylformamide (5 mL) at room temperature with stirring, and the mixture was stirred at that temperature for 1 hr. Benzyl bromide (0.021 mL) was added to the reaction mixture. After being stirred for 30 minutes, benzyl bromide (0.044 mL) was added, and the mixture was stirred for 30 minutes. The reaction mixture was partitioned between methylene chloride and water, and the aqueous layer was extracted with methylene chloride. The combined organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/3-1/2-2/1) to afford the title compound (0.64 g).

reactant | Benzyl bromide | 0.23 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl (4′-hydroxybiphenyl-4-yloxy)acetate | 0.50 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)OCC | C16H16O4
reactant | potassium carbonate | 0.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 0.021 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 0.044 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Ethyl(4′-benzyloxybiphenyl-4-yloxy)acetate | 0.64 g | C(C)OC(COC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C23H22O4
